US09233935B2
Rilpivirine (100 gm) was suspended in a mixture of methanol (1500 ml) and acetone (2200 ml). The contents were heated to reflux and maintained for 30 minutes at reflux to obtain a clear solution. The solution was treated with carbon and stirred for 10 minutes. The reaction mass was filtered through celite bed and then concentrated to obtain a residual solid. The residual solid was stirred for 30 minutes, filtered and then dried. To the solid thus obtained was added methanol and then the reaction mass was passed dry hydrochloride gas until the precipitation obtained at 0° C. The temperature of the reaction mass was raised to room temperature and stirred for 1 hour at room temperature. The separated solid was filtered and then dried to obtain 87.5 gm of rilpivirine hydrochloride crystalline monohydrate as an off white solid.

reactant | Rilpivirine | 100 gm | CC=1C=C(C=C(C1NC=2C=CN=C(N2)NC=3C=CC(=CC3)C#N)C)/C=C/C#N | C22H18N6
reactant | hydrochloride | Cl | ClH
solvent | methanol | 1500 ml | CO | CH4O
solvent | acetone | 2200 ml | CC(=O)C | C3H6O
product | rilpivirine hydrochloride | 87.5 gm | CC=1C=C(C=C(C1NC=2C=CN=C(N2)NC=3C=CC(=CC3)C#N)C)/C=C/C#N.Cl | InChI=1S/C22H18N6.ClH/c1-15-12-18(4-3-10-23)13-16(2)21(15)27-20-9-11-25-22(28-20)26-19-7-5-17(14-24)6-8-19;/h3-9,11-13H,1-2H3,(H2,25,26,27,28);1H/b4-3+;
